US09079894B2
To the mixture of 1-isopropyl-1H-indazole-3-carboxylic acid hydrazide (15.0 grams, 68.8 mmol) and 1-(3-Methoxy propyl)-piperidine-4-carboxylic acid hydrochloride (20.9 grams, 88.2 mmol, obtained in preparation 7) cooled at 0° C. was added phosphoryl chloride (130 mL). The reaction temperature was gradually raised to 100° C. and stirred was 2 hours. Upon completion of the reaction, it was cooled to 0° C. and triturated with hexanes (3×250 mL). The crude product was basified with aqueous sodium hydroxide solution and extracted with 5% methanol in dichloromethane. The combined organic layer was dried over anhydrous sodium sulphate and the solvent was removed under reduced pressure. The crude product was purified by silica gel column chromatography to obtain 1-isopropyl-3-{5-[1-(3-methoxy propyl)piperidin-4-yl]-[1,3,4]oxadiazol-2-yl}-1H-indazole (15.78 grams)

reactant | 1-isopropyl-1H-indazole-3-carboxylic acid hydrazide | 68.8 mmol, 15.0 grams | C(C)(C)N1N=C(C2=CC=CC=C12)C(=O)NN | C11H14N4O
reactant | 1-(3-Methoxy propyl)-piperidine-4-carboxylic acid hydrochloride | 88.2 mmol, 20.9 grams | Cl.COCCCN1CCC(CC1)C(=O)O
solvent | phosphoryl chloride | 130 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-isopropyl-3-{5-[1-(3-methoxy propyl)piperidin-4-yl]-[1,3,4]oxadiazol-2-yl}-1H-indazole | 15.78 grams, Yield: 59% | C(C)(C)N1N=C(C2=CC=CC=C12)C=1OC(=NN1)C1CCN(CC1)CCCOC | C21H29N5O2
